US09107916B2
N-cyano-2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carboxamide
A mixture of 2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carboxylic acid (70 mg, 0.2 mmol), cyanamide (17 mg, 0.4 mmol), HATU (113 mg, 0.3 mmol) and DIEA (59 mg, 0.6 mmol) in DMF (3 mL) was stirred at room temperature for 3 hours. The mixture was concentrated and purified by prep-HPLC to give the compound (15 mg, 20%). 1H NMR (400 MHz, DMSO-d6): 2.67-2.74 (3H, m), 2.94-2.98 (2H, m), 3.28 (1H, m), 3.43-3.45 (1H, m), 4.26-4.30 (1H, m), 4.44-4.48 (1H, m), 7.31-7.36 (2H, m), 7.59-7.61 (2H, m), 7.70-7.71 (1H, m), 7.76 (1H, s), 8.31 (1H, s), 8.42 (1H, d, J=5.2 Hz), 8.58 (1H, s), 9.56 (1H, br). [M+H] Calc'd for C20H19FN6O, 379. Found, 379.

reactant | 2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carboxylic acid | 0.2 mmol, 70 mg | FC1=CC=C(C=C1)CN(CCC=1C=NN(C1)C1=NC=CC(=C1)C(=O)O)C | C19H19FN4O2
reactant | cyanamide | 0.4 mmol, 17 mg | N#CN | CH2N2
reactant | HATU | 0.3 mmol, 113 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.6 mmol, 59 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-cyano-2-[4-[2-[(4-fluorophenyl)methyl-methylamino]ethyl]pyrazol-1-yl]pyridine-4-carboxamide | 15 mg, 20% | C(#N)NC(=O)C1=CC(=NC=C1)N1N=CC(=C1)CCN(C)CC1=CC=C(C=C1)F | C20H19FN6O
